US07256200B2
C4. Cell Culture and Morphine Treatment
Human neuroblastoma SH-SY5Y cells were maintained as a monolayer culture in Dulbecco's modified eagle medium (DMEM) supplemented with 10% fetal calf serum, 100 μg/ml streptomycin and 100 units/ml penicillin in 5% carbon dioxide, incubator maintained at 37° C. (Wang et al., 2000). Cells were plated into flasks a week before experiments Treatments were terminated at the designated times by replacing the medium with ice-cold phosphate buffered saline (PBS) on ice and subsequently rinsed with PBS three times. Cells then were used for cAMP assay or harvested as described in Section C10

reactant | streptomycin | C[C@H]1[C@@]([C@H]([C@@H](O1)O[C@@H]2[C@H]([C@@H]([C@H]([C@@H]([C@H]2O)O)NC(=N)N)O)NC(=N)N)O[C@H]3[C@H]([C@@H]([C@H]([C@@H](O3)CO)O)O)NC)(C=O)O | C21H39N7O12
reactant | penicillin | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)NC(=O)CC=3C=CC=CC3)C(=O)[O-])C.[K+]
reactant | carbon dioxide | C(=O)=O | CO2
product | Morphine | C1=CC(O)=C2C=3[C@@]45[C@@H](O2)[C@@H](O)C=C[C@H]4[C@@H](CC13)N(C)CC5 | C17H19NO3
